US09303000B2
Synthesis of (Z)-3-(3-(2-isopropoxy-6-(trifluoromethyl)pyridin-4-yl)-1H-1,2,4-triazol-1-yl)acrylohydrazide
In a 50 ml capacity 1-neck round-bottomed flask attached with magnetic stirrer (isobutylcarbonic) (Z)-3-(3-(2-isopropoxy-6-(trifluoromethyl)pyridin-4-yl)-1H-1,2,4-triazol-1-yl)acrylic anhydride in THF prepared in previous step was charged at 0° C. under N2. Hydrazine hydrate (99%) added dropwise. Stir it for 30 min at 0° C. Completion of the reaction confirmed on TLC in 50% ethylacetate/hexane mobile phase. The reaction mixture was poured in ice water solution, and extracted with ethylacetate (3×50 ml). Organic layer dried over Na2SO4 and concentrated to give crude product (180 mg). Crude product was forwarded to next step.

reactant | (Z)-3-(3-(2-isopropoxy-6-(trifluoromethyl)pyridin-4-yl)-1H-1,2,4-triazol-1-yl)acrylic anhydride | C(C)(C)OC1=NC(=CC(=C1)C1=NN(C=N1)\C=C/C(=O)OC(\C=C/N1N=C(N=C1)C1=CC(=NC(=C1)C(F)(F)F)OC(C)C)=O)C(F)(F)F | C28H24F6N8O5
reactant | Hydrazine hydrate | O.NN
solvent | THF | C1CCOC1 | C4H8O
solvent | ethylacetate hexane | C(C)OC(C)=O.CCCCCC
product | (Z)-3-(3-(2-isopropoxy-6-(trifluoromethyl)pyridin-4-yl)-1H-1,2,4-triazol-1-yl)acrylohydrazide | 180 mg | C(C)(C)OC1=NC(=CC(=C1)C1=NN(C=N1)\C=C/C(=O)NN)C(F)(F)F | C14H15F3N6O2
